US05155223
26.5 parts by weight of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid and 35.3 parts by weight of 1-ethyl-piperazine in 200 parts by volume of water are heated under reflux for 90 minutes, and the mixture is cooled, brought to pH 7.5 using acid and worked up. 34.0 g (94.7%) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-1-piperazinyl)-3-quinolinecarboxylic acid are obtained.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 1-ethyl-piperazine | C(C)N1CCNCC1 | C6H14N2
solvent | water | O | H2O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-1-piperazinyl)-3-quinolinecarboxylic acid | 34.0 g, 94.7% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC)F)=O)C(=O)O | C19H22FN3O3
